US07067506B2
Step 1: 4-Amino-3-trifluoromethoxy-benzoic acid methyl ester.
To a stirred solution of 4-amino-3-trifluoromethoxy-benzoic acid (1.2 g, 5.4 mmol) in 16 mL of 4:1 THF:MeOH at 0 ° C. was added TMS -diazomethane (2M solution in hexane, 6 mL, 12 mmol) dropwise and conversion was monitored by TLC in ⅔ EtOAc/hexane. When complete, the reaction was concentrated to a white solid corresponding to the methyl ester (1.27 g, quantitative).

reactant | 4-amino-3-trifluoromethoxy-benzoic acid | 5.4 mmol, 1.2 g | NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | MeOH | CO | CH4O
reactant | TMS -diazomethane | 12 mmol, 2M, 6 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 4-Amino-3-trifluoromethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)N)OC(F)(F)F)=O | C9H8F3NO3
